US05726165
(S)-N-Benzyl-1(4-benzyloxyphenoxy)-3-[N-2-(4-hydroxyphenyl)ethylamino]propan-2-ol
A solution of (S)-1-(4-benzyloxyphenoxy)-3-[N-2-(4-hydroxyphenyl)ethylamino]propan-2-ol (1.9 g, 4.8 mMol) and benzyl bromide (0.57 ml, 4.8 mMol) in dimethylformamide (10 ml) containing sodium carbonate (770 mg, 7.2 mMol) was stirred at room temperature for 18 hours. The mixture was filtered and the residue was washed with ethyl acetate. The filtrates were combined, washed with water and brine, dried and evaporated. Purification of the residue by flash chromatography (silica gel, 50% ethyl acetate in hexane) gave the title compound.

reactant | (S)-1-(4-benzyloxyphenoxy)-3-[N-2-(4-hydroxyphenyl)ethylamino]propan-2-ol | 4.8 mMol, 1.9 g | C(C1=CC=CC=C1)OC1=CC=C(OC[C@H](CNCCC2=CC=C(C=C2)O)O)C=C1 | C24H27NO4
reactant | benzyl bromide | 4.8 mMol, 0.57 ml | C(C1=CC=CC=C1)Br | C7H7Br
reactant | sodium carbonate | 7.2 mMol, 770 mg | C([O-])([O-])=O.[Na+].[Na+]
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | (S)-N-Benzyl-1(4-benzyloxyphenoxy)-3-[N-2-(4-hydroxyphenyl)ethylamino]propan-2-ol | C(C1=CC=CC=C1)N(CCC1=CC=C(C=C1)O)C[C@@H](COC1=CC=C(C=C1)OCC1=CC=CC=C1)O | C31H33NO4
